US05244890
To a solution of 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-(1-methyl-1-piperazinio)methyl-3-cephem-4-carboxylate (syn isomer) (255 mg) in a mixture of water (5 ml) and acetone (5 ml) was added 4,5-diacetoxy-2-pyridinecarbonyl chloride hydrochloride (309 mg), with maintaining the pH of the solution to 8.0-8.5 by addition of saturated aqueous sodium bicarbonate. After stirring for 30 minutes, acetone was removed by evaporation in vacuo and the residue was adjusted to pH 8 and stirred for 2 hours. The mixture was adjusted to pH 3.0 with 1N hydrochloric acid and chromatographed on Diaion HP-20 (50 ml), and the elution was carried out with 10% aqueous isopropyl alcohol. The eluate was lyophilized to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[1-methyl-4-(4,5-dihydroxy-2-pyridylcarbonyl)-1-piperazinio]methyl-3-cephem-4-carboxylate (syn isomer) (155 mg).

reactant | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-(1-methyl-1-piperazinio)methyl-3-cephem-4-carboxylate | 255 mg | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2(CCNCC2)C)C(=O)[O-])C1=O)=NOCC | C19H26N8O5S2
reactant | 4,5-diacetoxy-2-pyridinecarbonyl chloride hydrochloride | 309 mg | Cl.C(C)(=O)OC1=CC(=NC=C1OC(C)=O)C(=O)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 5 ml | O | H2O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[1-methyl-4-(4,5-dihydroxy-2-pyridylcarbonyl)-1-piperazinio]methyl-3-cephem-4-carboxylate | 155 mg | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2(CCN(CC2)C(=O)C2=NC=C(C(=C2)O)O)C)C(=O)[O-])C1=O)=NOCC | C25H29N9O8S2
